US07067179B1
Phenanthren-2,7-diol was reduced with hydrogen in the presence of a 5% palladium-carbon (wet) catalyst, and then oxidized using a mixture of chromium trioxide, sulfuric acid and water to yield 1,3,4,5,6,8-hexahydrophenanthren-2,7-dione. One of the carbonyl groups of this compound was protected with an ethylene glycol, and the compound was then reacted with propylmagnesium bromide, dehydrated in the presence of an acid catalyst, and the partially deprotected group reformed to yield 7-propyl-3, 4,5,6-tetrahydro-1H-phenanthren-2-one ethylene acetal. This compound was then reduced with hydrogen in the presence of a 5% palladium-carbon (wet) catalyst, and then isomerized using potassium-t-butoxide in DMF to yield trans-7-propyl-3,4,5,6,7,8-tetrahydro-1H-phenanthren-2-one. This compound was reacted in the same manner as that described in Example 17 to Example 22, and yielded the compounds listed below.

reactant | Phenanthren-2,7-diol | C1=C(C=CC=2C3=CC=C(C=C3C=CC12)O)O | C14H10O2
reactant | hydrogen | [H][H] | H2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
catalyst | palladium-carbon | [C].[Pd]
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
solvent | water | O | H2O
product | 1,3,4,5,6,8-hexahydrophenanthren-2,7-dione | C1C(CCC2=C3CCC(CC3=CC=C12)=O)=O | C14H14O2
